US07608590B2
i) (2S)-Methanesulphonic acid 2-tert.butoxycarbonylamino-4-methyl-pentyl ester
To a solution of ((1S)-1-hydroxymethyl-3-methyl-butyl)-carbamic acid tert-butyl ester (25 g, 115 mmol) in dichloromethane (500 ml) cooled by an ice-water bath was successively added diisopropylethylamine (35.7 g, 276 mmol) and methanesulphonyl chloride (15.81 g, 138 mmol). The resulting solution was stirred over night during which time the mixture was allowed to gradually warm up to ambient temperature. The mixture was washed successively with water, 10% citric acid (aq), water and saturated NaHCO3 (aq), then dried with Na2SO4 and concentrated to a brown solid (32.6 g, 96%) which was used in the next reaction without further purification.

reactant | ((1S)-1-hydroxymethyl-3-methyl-butyl)-carbamic acid tert-butyl ester | 115 mmol, 25 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)CO)=O | C11H23NO3
reactant | diisopropylethylamine | 276 mmol, 35.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 138 mmol, 15.81 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (2S)-Methanesulphonic acid 2-tert.butoxycarbonylamino-4-methyl-pentyl ester | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C)CC(C)C | C12H25NO5S
